US08202862B2
Methyl 5-[4-(2-hydroxyethyl)phenyl]nicotinate
According to General Method 3A, 6.00 g (29.8 mmol) of 2-(4-bromophenyl)ethanol and 19.6 g (74.6 mmol) of methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate were reacted. Yield: 6.12 g (74% of theory)

reactant | 2-(4-bromophenyl)ethanol | 29.8 mmol, 6.00 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate | 74.6 mmol, 19.6 g | CC1(OB(OC1(C)C)C=1C=NC=C(C(=O)OC)C1)C | C13H18BNO4
product | Methyl 5-[4-(2-hydroxyethyl)phenyl]nicotinate | OCCC1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1 | C15H15NO3
